US06602889B1
1-(4-Fluorophenyl)-5-(trimethylstannyl)-1H-indole (25a)
1-(4-Fluorophenyl)-5-bromo-1H-indole (5 g, 17.2 mmol) in THF (20 mL) was added during 3 minutes to a solution of n-BuLi (1.6 M, 26 mmol) in THF (200 mL) at −78° C. The solution was stirred for 4 minutes at −78° C. before addition of trimethylstannyl chloride (10 g, 50 mmol) in THF (10 mL). The reaction mixture was allowed to warn up to room temperature and stirred for 1 h. After evaporation of the solvent the crude product was purified by flash chromatography (EtOAc/Heptane 5/100). Yield: 3.6 g. Mp 61-63° C. (EtOAc/Heptane).

reactant | 1-(4-Fluorophenyl)-5-bromo-1H-indole | 17.2 mmol, 5 g | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)Br | C14H9BrFN
reactant | n-BuLi | 26 mmol, 1.6 M | [Li]CCCC
reactant | trimethylstannyl chloride | 50 mmol, 10 g | C[Sn](C)(C)Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluorophenyl)-5-(trimethylstannyl)-1H-indole | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)[Sn](C)(C)C | InChI=1S/C14H9FN.3CH3.Sn/c15-12-5-7-13(8-6-12)16-10-9-11-3-1-2-4-14(11)16;;;;/h2-10H;3*1H3;
